US08492372B2
2-(BROMOMETHYL)-7-[(TRIFLUOROMETHYL)SULFONYL]-4H-1,3-BENZODIOXINE
Preparation according to Preparation 9. 2-(hydroxymethyl)-5-[(trifluoromethyl)sulfonyl]phenol (2.7 g, 10.5 mmol), 2-bromo-1,1-dimethoxyethane (3.0 ml, 25.4 mmol), conc. H2SO4 (1.0 ml), THF (20 ml). Heating at 50° C. for 6 h. Additional 2-bromo-1,1-dimethoxyethane (5×0.5 ml, 21.1 mmol) and conc. H2SO4 (3×1.0 ml) were added during the reaction. Purification by flash column chromatography gave the title compound (3.3 g). MS m/z (rel. intensity, 70 eV) 362 (M+, 5), 360 (M+, 5), 267 (bp), 238 (64), 141 (52), 77 (55).

reactant | 2-(hydroxymethyl)-5-[(trifluoromethyl)sulfonyl]phenol | 10.5 mmol, 2.7 g | OCC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)O | C8H7F3O4S
reactant | 2-bromo-1,1-dimethoxyethane | 25.4 mmol, 3.0 ml | BrCC(OC)OC | C4H9BrO2
reactant | H2SO4 | 1.0 ml | OS(=O)(=O)O | H2O4S
reactant | 2-bromo-1,1-dimethoxyethane | 21.1 mmol, 0.5 ml | BrCC(OC)OC | C4H9BrO2
reactant | H2SO4 | 1.0 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(BROMOMETHYL)-7-[(TRIFLUOROMETHYL)SULFONYL]-4H-1,3-BENZODIOXINE | 3.3 g | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C(F)(F)F | C10H8BrF3O4S
